US05646308
A mixture of 0.33 g of N-(2-cyanoethyl)-2,2-bis(fluoromethyl)-6-nitro-2H-1-benzopyran-4-carboxamide, 0.20 g of sodium borohydride, 20 ml of tetrahydrofuran and 10 ml of methyl alcohol was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure and 2N hydrochloric acid was added therein. The resultant mixture was extracted with ethyl acetate, dried over magnesium sulfate and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (developing solution, ethyl acetate:hexane=1.1) to obtain 0.17 g of N-(2-cyanoethyl)-2,2-bis(fluoromethyl)-3,4-dihydro-6-nitro-2H-1-benzopyran-4-carboxamide with a melting point of 137°-138° C.

reactant | N-(2-cyanoethyl)-2,2-bis(fluoromethyl)-6-nitro-2H-1-benzopyran-4-carboxamide | 0.33 g | C(#N)CCNC(=O)C1=CC(OC2=C1C=C(C=C2)[N+](=O)[O-])(CF)CF | C15H13F2N3O4
reactant | sodium borohydride | 0.20 g | [BH4-].[Na+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methyl alcohol | 10 ml | CO | CH4O
product | N-(2-cyanoethyl)-2,2-bis(fluoromethyl)-3,4-dihydro-6-nitro-2H-1-benzopyran-4-carboxamide | 0.17 g | C(#N)CCNC(=O)C1CC(OC2=C1C=C(C=C2)[N+](=O)[O-])(CF)CF | C15H15F2N3O4
